* DC multi-source series mesh — Schaum's Fig. 3-27
V1 n1 0 DC 15.1
R1 n1 a 2
R2 a nc 2
V2 nc nd DC 24.6
R3 nd ne 2
V3 b ne DC 17.4
V4 nf b DC 13.9
R4 nf 0 3
.op
.print dc V(a) V(b)
.end